US08685981B2
(6a) Benzyl 3-[(difluoromethoxy)methyl]piperidine-1-carboxylate
Benzyl 3-(hydroxymethyl)piperidine-1-carboxylate (2.49 g, 10.0 mmol) was dissolved in acetonitrile (100 mL), to which copper iodide (I) (2.86 g, 15.0 mmol) and 2,2-difluoro-2-(fluorosulfonyl)acetic acid (2.66 g, 15.0 mmol) were added, followed by stirring at 80° C. for 20 minutes. The mixture was brought down to room temperature, to which adequate amounts of hexane and ethyl acetate were added, followed by neutralization with a 2M ammonia/methanol solution. Impurities were filtered off, and the solvent was distilled off under reduced pressure. The residue thus obtained was purified by basic silica gel column chromatography (hexane:ethyl acetate, 100:0-0:100, V/V) to give the desired title compound (1.82 g, yield 61%).

reactant | Benzyl 3-(hydroxymethyl)piperidine-1-carboxylate | 10.0 mmol, 2.49 g | OCC1CN(CCC1)C(=O)OCC1=CC=CC=C1 | C14H19NO3
reactant | 2,2-difluoro-2-(fluorosulfonyl)acetic acid | 15.0 mmol, 2.66 g | FC(C(=O)O)(S(=O)(=O)F)F | C2HF3O4S
reactant | hexane | CCCCCC | C6H14
reactant | ammonia methanol | 2M | N.CO
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
catalyst | copper iodide | 15.0 mmol, 2.86 g | [Cu](I)I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Benzyl 3-[(difluoromethoxy)methyl]piperidine-1-carboxylate | 1.82 g, yield 61% | FC(OCC1CN(CCC1)C(=O)OCC1=CC=CC=C1)F | C15H19F2NO3
